US05256793
A 500 gallon reactor is charged with 61.1 pounds of tert-butanol (88/12 azeotrope with water) which is stirred and cooled to 5° C. To this is added 22.0 pounds (0.203 lb-mole) of acetaldehyde phenylhydrazone. While maintaining the temperature of the reaction mixture at 0° to 5° C., 15.6 pounds (0.240 lb-mole) of 85% pure sodium cyanate in 44.5 pounds of water is added during a five-minute period. The reaction mixture is maintained at 5° C. as it is stirred during a 30 minute period. While maintaining the reaction mixture at about 10° C., 14.8 pounds (0.247 lb-mole of acetic acid is added during about a 30-45 minute period. Upon completion of the addition, the reaction mixture is stirred for three hours at about 10° C. until the reaction is complete. The reaction endpoint and the concentration of the phenyltriazolidinone intermediate are determined by gas chromatograph. At the end of this time, a solution of 12.6 pounds of sodium chloride in 35.8 pounds of water is stirred into the reaction mixture. The aqueous phase is separated when the reaction mixture temperature is about 15° C. After this time, 67.8 pounds of water is added to the reaction mixture and 73.4 pounds of tert-butanol/water (88/12) is removed by distillation at an overhead temperature of 80° C. The residue is cooled to 0° C., and a solid is collected by filtration. The solid is dried at 80° C./5 mm Hg for 24 hours to yield 3-methyl-1-phenyl-1,2,4-triazolidin-5-one.

reactant | acetaldehyde phenylhydrazone | 22.0 pounds | C1(=CC=CC=C1)NN=CC | C8H10N2
reactant | sodium cyanate | 15.6 pounds | [O-]C#N.[Na+]
reactant | phenyltriazolidinone | C1(=CC=CC=C1)N1NNC(C1)=O | C8H9N3O
reactant | sodium chloride | 12.6 pounds | [Cl-].[Na+]
solvent | water | 44.5 pounds | O | H2O
solvent | water | 35.8 pounds | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tert-butanol | 61.1 pounds | C(C)(C)(C)O | C4H10O
product | 3-methyl-1-phenyl-1,2,4-triazolidin-5-one | CC1NN(C(N1)=O)C1=CC=CC=C1 | C9H11N3O
